US04636570
Triethylamine hydrochloride (0.48 g), methylene chloride (15 cc), acetic acid (10 cc) and cuprous chloride (90 mg) are introduced, under an argon atmosphere, into a 250 cc reactor. The reaction mixture is stirred until a homogeneous soution is obtained. This is cooled to -10° C. and 15-chloro-3-methylene-7,11,15-trimethyl-hexadeca-1,6,10-triene (10 g) are then added followed, over the course of 1 hour, by dry hydrogen chloride gas (3.9 g). The reaction mixture is poured into an aqueous solution (100 cc) of ammonium chloride (100 g/liter). The organic phase is separated off by decanting and the aqueous phase is extracted with methylene chloride (twice 100 cc). The combined organic phases are washed with water (100 cc) and then dried over potassium carbonate. After filtration and evaporation of the solvent, 1,7,11,15-tetrachloro-3,7,11,15-tetramethyl-hexadec-2-ene (13.1 g) is obtained in a yield of 96.5%.

reactant | Triethylamine hydrochloride | 0.48 g | Cl.C(C)N(CC)CC
reactant | 15-chloro-3-methylene-7,11,15-trimethyl-hexadeca-1,6,10-triene | 10 g | ClC(CCCC(=CCCC(=CCCC(C=C)=C)C)C)(C)C | C20H33Cl
reactant | hydrogen chloride | 3.9 g | Cl | ClH
reactant | ammonium chloride | 100 cc | [Cl-].[NH4+]
solvent | acetic acid | 10 cc | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 15 cc | C(Cl)Cl | CH2Cl2
product | 1,7,11,15-tetrachloro-3,7,11,15-tetramethyl-hexadec-2-ene | 13.1 g, yield of 96.5% | ClCC=C(CCCC(CCCC(CCCC(C)(C)Cl)(C)Cl)(C)Cl)C | C20H36Cl4
